US20010011063A1
2-Amino-4-(1-fluoro-1-methylethyl)-6-[(1 R)4-phenyl-1-cyclopropylbutylamino]-1,3,5-triazine (see Example 4-12, Table 4)
1.52 g (0.008 mol) of 2-amino-4-chloro-6-(1-fluoro-1-methylethyl)-1,3,5-triazine and 1.64 g (0.012 mol) of potassium carbonate are initially charged in 30 ml of acetonitrile. 1.50 g (0.008 mol) of (R)4-phenyl-1-cyclopropyl-1-butylamine, dissolved in 10 ml of acetonitrile, are added dropwise to this solution. The mixture is boiled at reflux for three hours. The solid components are then filtered off with suction, and the filtrate is concentrated using a rotary evaporator. The residue is purified by column chromatography (mobile phase: methyl acetate). This gives 2.36 g (86% of theory) of the title compound.

reactant | 2-amino-4-chloro-6-(1-fluoro-1-methylethyl)-1,3,5-triazine | 0.008 mol, 1.52 g | NC1=NC(=NC(=N1)Cl)C(C)(C)F | C6H8ClFN4
reactant | potassium carbonate | 0.012 mol, 1.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)4-phenyl-1-cyclopropyl-1-butylamine | 0.008 mol, 1.50 g | C1(=CC=CC=C1)CCC[C@H](C1CC1)N | C13H19N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-Amino-4-(1-fluoro-1-methylethyl)-6-[(1 R)4-phenyl-1-cyclopropylbutylamino]-1,3,5-triazine | NC1=NC(=NC(=N1)C(C)(C)F)N[C@H](CCCC1=CC=CC=C1)C1CC1 | C19H26FN5
